US07186724B2
3-Bromo-thiophene-2-carboxylic acid.
To a solution of 3-bromothiophene (600.0 g, 3.68 mol) in THF (3 L) cooled to −72° C. was added LDA (1.93 L, 3.86 mol, 2 N) slowly over 2 hours. The rate of LDA addition is such that the reaction temperature never exceeded 68° C. After complete addition, the solution is stirred for an additional 40 minutes. Diethyl ether (3 L) is then added via an addition funnel such that the temperature is maintained below −65° C. The addition funnel is then replaced with a dispersion tube and CO2 gas is bubbled through the solution for 3 hours. Dry ice (500 g) is then added and the mixture is stirred overnight. The reaction flask is then placed in an ice bath and 6 N HCl is added slowly to prevent excessive bubbling until the pH of the solution is adjusted to 1–2. The resulting mixture is then extracted with EtOAc. The extract is washed with brine then dried over MgSO4, filtered and evaporated. The product is dried under vacuum at room temperature yielding 585.15 g (77%) as an off-white solid.

reactant | 3-bromothiophene | 3.68 mol, 600.0 g | BrC1=CSC=C1 | C4H3BrS
reactant | LDA | 3.86 mol, 2 N, 1.93 L | [Li+].CC(C)[N-]C(C)C
reactant | Diethyl ether | 3 L | C(C)OCC | C4H10O
reactant | THF | 3 L | C1CCOC1 | C4H8O
product | 3-Bromo-thiophene-2-carboxylic acid | BrC1=C(SC=C1)C(=O)O | C5H3BrO2S
